US04348399
A solution of 37.6 g. of 4-hexadecylaminohydrocinnamic acid, prepared as described in Example 4, in 1200 ml. of methylene chloride and 300 ml. of 1,2-dimethoxyethane is stirred under reflux while hydrogen chloride gas is bubbled in for 1 hour. The mixture is then treated with 65.5 g. of thionyl chloride and stirred under reflux for another 1 hour. The dark solution is evaporated in vacuo to yield 4-(hexadecylamino)hydrocinnamoyl chloride hydrochloride.

reactant | 4-hexadecylaminohydrocinnamic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)O)C=C1 | C25H43NO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | hydrogen chloride | Cl | ClH
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 4-(hexadecylamino)hydrocinnamoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)Cl)C=C1 | InChI=1S/C25H42ClNO.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-22-27-24-19-16-23(17-20-24)18-21-25(26)28;/h16-17,19-20,27H,2-15,18,21-22H2,1H3;1H
